US06943183B2
1. 5-Nitro-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
To a solution of 6-hydroxy-5-nitro-1-tetralone (2.09 g, 10.1 mmol) in dry THF (50 mL) was added (R)-2-imidazol-1-yl-1-phenyl-ethanol (2.28 g, 12.1 mmol) followed by triphenylphosphine (3.18 g, 12.1 mmol). After approximately 10 min, diethylazodicarboxylate (1.9 mL, 12.1 mmol) was added slowly. The reaction became homogenous within 2 min. The reaction was allowed to stir at RT overnight. The reaction mixture was concentrated under reduced pressure and the residue was triturated with Et2O to remove some of the phospine by-products. The residue was dissolved in EtOAc and washed with H2O, saturated aqueous NaHCO3 and brine, dried over MgSO4, and concentrated to give a foam/oil. Purification by chromatography (SiO2, 10 to 20% acetone/Cl2Cl2 then 5% MeOH/CH2Cl2) afforded the title compound as a light brown foam (3.06 g, 8.1 mmol, 80%). The structure was confirmed by NMR and mass spectrometry. MS m/z 378 (M++H).

reactant | 6-hydroxy-5-nitro-1-tetralone | 10.1 mmol, 2.09 g | OC=1C(=C2CCCC(C2=CC1)=O)[N+](=O)[O-] | C10H9NO4
reactant | (R)-2-imidazol-1-yl-1-phenyl-ethanol | 12.1 mmol, 2.28 g | N1(C=NC=C1)C[C@H](O)C1=CC=CC=C1 | C11H12N2O
reactant | triphenylphosphine | 12.1 mmol, 3.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 12.1 mmol, 1.9 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 5-Nitro-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 8.1 mmol, 3.06 g, 80% | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C21H19N3O4
